US07723336B2
6-chloro-3-iodo-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine (120 mg, 0.25 mmol) from (1a), 4-vinylpyridine (54 μL, 0.50 mmol) and Pd(OAc)2 (23 mg, 0.1 mmole) in acetonitrile (1 mL) were heated at 85° C. for 2 h. After cooling to room temperature, the mixture was partitioned between EtOAc (200 mL) and water (20 mL) and the organic layer was washed with water, brine, then dried over MgSO4 and concentrated. The resulting residue was purified by flash chromatography to provide 6-chloro-N-(4-methoxybenzyl)-N-phenyl-3-(2-(pyridin-4-yl)vinyl)imidazo[1,2-b]pyridazin-8-amine as a yellow solid (75 mg, 66%). LCMS [M+H]+ 468.

reactant | 6-chloro-3-iodo-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine | 0.25 mmol, 120 mg | ClC=1C=C(C=2N(N1)C(=CN2)I)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C20H16ClIN4O
reactant | 4-vinylpyridine | 0.50 mmol, 54 μL | C(=C)C1=CC=NC=C1 | C7H7N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.1 mmole, 23 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-chloro-N-(4-methoxybenzyl)-N-phenyl-3-(2-(pyridin-4-yl)vinyl)imidazo[1,2-b]pyridazin-8-amine | 75 mg, 66% | ClC=1C=C(C=2N(N1)C(=CN2)C=CC2=CC=NC=C2)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C27H22ClN5O
